US06147090
cis-4-Amino-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-ethyl ester 7-methyl ester.
cis-4-Benzyloxycarbonylamino-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-ethyl ester 7-methyl ester (322 mg, 0.71 mmol), 10% palladium on carbon (32 mg) and cyclohexene (9 ml) in 16 ml ethanol was heated to 80° C. for 1.25 h. The reaction mixture was cooled to room temperature, filtered through Celite®, and concentrated in vacuo. Purification by silica gel chromatography using 1% isopropanol-dichloromethane afforded the title product (208 mg, 91%). 1H NMR (DMSO-d6)δ 1.02 (d, 3H), 6.68 (s, 1H).

reactant | cis-4-Benzyloxycarbonylamino-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-ethyl ester 7-methyl ester | 0.71 mmol, 322 mg | COC(=O)C1=C(C=C2[C@@H](C[C@@H](N(C2=C1)C(=O)OCC)C)NC(=O)OCC1=CC=CC=C1)OC | C24H28N2O7
reactant | cyclohexene | 9 ml | C1=CCCCC1 | C6H10
catalyst | palladium on carbon | 32 mg | [Pd] | Pd
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | cis-4-Amino-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-ethyl ester 7-methyl ester | 208 mg, 91% | COC(=O)C1=C(C=C2[C@@H](C[C@@H](N(C2=C1)C(=O)OCC)C)N)OC | C16H22N2O5
